US05646308
To a mixture of 5.1 g of 3,4-dihydro-2,2-bis(methoxymethyl)-6-nitro-2H-1-benzopyran-3-one and 60 ml of dried N,N-dimethylformamide was added 1.35 ml of methyl isothiocyanate under nitrogen stream with stirring under ice-cooling. Subsequently, 2.2 g of potassium tertiary butoxide was added therein. The mixture was stirred for 15 minutes and then further stirred at 5° C. for 11 hours. Ice water was added therein and the resultant reaction solution was washed with ether. A water layer was acidified to be hydrochloric acid and it was extracted with ether. An organic layer was washed with water and dried, and the solvent was distilled. The obtained residue was purified according to silica gel column chromatography (developing solution, MeOH:CH2Cl2 =2:98) to obtain 2.8 g of 3-hydroxy-2,2-bis(methoxymethyl)-N-methyl-6-nitro-2H-1-benzopyran-4-carbothioamide with a melting point of 97°-101° C.

reactant | 3,4-dihydro-2,2-bis(methoxymethyl)-6-nitro-2H-1-benzopyran-3-one | 5.1 g | COCC1(OC2=C(CC1=O)C=C(C=C2)[N+](=O)[O-])COC | C13H15NO6
reactant | methyl isothiocyanate | 1.35 ml | CN=C=S | C2H3NS
reactant | potassium tertiary butoxide | 2.2 g | CC(C)([O-])C.[K+]
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 3-hydroxy-2,2-bis(methoxymethyl)-N-methyl-6-nitro-2H-1-benzopyran-4-carbothioamide | 2.8 g | OC=1C(OC2=C(C1C(NC)=S)C=C(C=C2)[N+](=O)[O-])(COC)COC | C15H18N2O6S
